US07714010B2
c) (rac)-N-(3-Isopropyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide
(rac)-N-(3-Isopropyl-1-methyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide is dissolved in acetic acid (3 ml) and cooled to 0° C. Then nitric acid (fuming, 1.5 ml) is added drop-wise and the reaction mixture is stirred for 30 min at this temperature. After completion of the reaction the mixture is poured into ice-water and extracted with CH2Cl2. The combined organic layer is washed with water, dried over MgSO4 and evaporated. The residue is subjected to flash chromatography on silica gel eluting with light petroleum/EtOAc to give the pure compound (1.7 g).

reactant | (rac)-N-(3-Isopropyl-1-methyl-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | C(C)(C)C1C(N(C2=CC=C(C=C12)NC(C)=O)C)=O | C14H18N2O2
reactant | nitric acid | 1.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | (rac)-N-(3-Isopropyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.7 g | C(C)(C)C1C(N(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])C)=O | C14H17N3O4
